data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_317792_1,[C:1]([C:4]([N:2](/[C:3](=[C:5](\[O:7][H:10])[H:12])[O:6][H:9])[H:11])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:4]([C:5](/[C:3](=[N:2]/[H:11])[O:6][H:9])([O:7][H:10])[H:12])=[O:8])([H:13])([H:14])[H:15],48.79691000003689
MR_390785_1,[C:1]([N:3]([H:10])[H:11])([N:4]([H:8])[H:9])(/[C:5](=[N:6]/[C:2]([H:13])([H:14])[H:15])[H:12])[H:7]>>[C:1](=[N:4]/[H:9])(\[C:5]([N:3]([H:10])[H:11])([N:6]([C:2]([H:13])([H:14])[H:15])[H:8])[H:12])[H:7],49.38236750002119
MR_36939_0,[C:1]([N:2]([N:3]([H:8])[H:9])/[C:4](=[N:6]\[H:10])[H:13])([C:5](=[O:7])[H:14])([H:11])[H:12]>>[C:1](/[N:2]=[N:3]/[H:8])([C:5](/[C:4](=[N:6]\[H:10])[H:13])([O:7][H:9])[H:14])([H:11])[H:12],68.04798249997845
MR_108369_1,[C:1]([C:4]([N:2](/[C:3]([N:5]([H:9])[H:10])=[N:6]/[H:11])[H:8])=[O:7])([H:12])([H:13])[H:14]>>[C:1](/[C:4](=[N:2]/[H:8])[O:7]/[C:3]([N:5]([H:9])[H:10])=[N:6]/[H:11])([H:12])([H:13])[H:14],61.59351750000923
MR_389504_0,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[C:4](=[C:5]([H:15])[H:16])[O:6][H:8])([O:7][H:9])([H:10])[H:11]>>[C:1]([C:5](/[C:4](=[N:3]\[C:2]([H:12])([H:13])[H:14])[O:6][H:8])([H:15])[H:16])([O:7][H:9])([H:10])[H:11],73.17528499998119
MR_242548_0,[C:1](/[C:2]([O:5]/[C:4](=[N:7]/[H:10])[H:11])=[N:6]\[N:3]([H:8])[H:9])([H:12])([H:13])[H:14]>>[C:1]([C:2](=[O:5])[N:6]([N:3]([H:8])[H:9])/[C:4](=[N:7]/[H:10])[H:11])([H:12])([H:13])[H:14],33.879979999996124
MR_598974_2,[C:1](/[C:2]([N:4]([H:11])[H:12])=[C:5](/[O:6][N:3]([H:9])[H:10])[H:13])([O:7][H:8])([H:14])[H:15]>>[C:1](/[C:5](=[C:2](\[N:4]([H:11])[H:12])[O:6][N:3]([H:9])[H:10])[H:13])([O:7][H:8])([H:14])[H:15],67.82082750001692
MR_633620_0,[C:1]([N:2]([N:4]([H:11])[H:12])[H:9])([C:3]([C:6](=[C:7]([H:16])[H:17])[H:15])=[O:8])([N:5]([H:13])[H:14])[H:10]>>[C:1](\[C:3]([N:2]([N:4]([H:11])[H:12])[H:9])([C:6](=[C:7]([H:16])[H:17])[H:15])[O:8][H:14])(=[N:5]/[H:13])[H:10],35.52402999994726
MR_323603_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])(/[C:6]([C:4]([H:18])([H:19])[H:20])=[C:8](\[C:5]([H:21])([H:22])[H:23])[H:11])[C:7](=[O:9])[H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])=[C:6]([C:4]([H:18])([H:19])[H:20])[C@:8]([C:5]([H:21])([H:22])[H:23])([C:7](=[O:9])[H:10])[H:11],50.78106499998541
MR_6122_2,[C:1]1([O:7][H:8])([H:9])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:2]([C:5]([H:15])([H:16])[H:17])([H:10])[O:6]1>>[C:1]([C:3]([C:4]([C:2](=[C:5]([H:16])[H:17])[H:10])([H:13])[H:14])([H:11])[H:12])([O:6][H:15])([O:7][H:8])[H:9],65.68293499999285
MR_701036_0,[C@:1]([C:2]([H:10])([H:11])[H:12])(/[C:4]([C:3]([H:13])([H:14])[H:15])=[N:6]/[H:9])([N:5]=[O:7])[H:8]>>[C@:1]1([C:2]([H:10])([H:11])[H:12])([H:8])[C@@:4]([C:3]([H:13])([H:14])[H:15])([N:5]=[O:7])[N:6]1[H:9],72.92553999996969
MR_275745_2,[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([O:8][H:11])=[O:9])(/[C:5](=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13])[H:12])[O:7][H:10]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:5](\[C:6]([C:3]([H:17])([H:18])[H:19])([C:4]([O:8][H:11])=[O:9])[H:13])[H:12])[O:7][H:10],71.69501250000891
MR_657323_0,[C:1]([N:3]([N:5]([H:10])[H:11])[H:8])(/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:7]/[H:14])([N:6]([H:12])[H:13])[H:9]>>[C:1](\[C:4]([C:2]([H:15])([H:16])[H:17])([N:3]([N:5]([H:10])[H:11])[H:8])[N:7]([H:13])[H:14])(=[N:6]/[H:12])[H:9],47.66929250003031
MR_347912_2,[C@@:1]([C:2]([O:6][H:9])=[O:7])([O:4][N:3]([H:11])[H:12])([O:5][H:8])[H:10]>>[C:1]([C:2]([O:4][N:3]([H:11])[H:12])=[O:7])([O:5][H:8])([O:6][H:9])[H:10],67.60120250000071
MR_76849_0,[C:1](/[C:2]([N:3]([H:7])[H:8])=[N:5]\[H:9])([C:4](=[O:6])[H:10])([H:11])[H:12]>>[C:1](/[C:2]([N:3]([H:7])[H:11])=[N:5]\[H:9])(=[C:4](/[O:6][H:8])[H:10])[H:12],56.06838000001218
MR_665043_0,[C:1]([C:4]([N:3]([C:6](/[N:2]=[N:5]/[H:10])([N:8]([H:11])[H:12])[H:13])[H:9])=[C:7]([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([C:4]([N:3]([N:2]([N:5]([H:10])[H:11])/[C:6](=[N:8]/[H:12])[H:13])[H:9])=[C:7]([H:17])[H:18])([H:14])([H:15])[H:16],49.12258249999937
MR_419991_0,[C:1]([N:2]([O:5][H:7])[H:9])([N:3]([O:6][H:8])[H:10])([N:4]([H:12])[H:13])[H:11]>>[C:1]([N:2]([N:3]([O:6][H:8])[H:10])[H:9])([N:4]([H:12])[H:13])([O:5][H:7])[H:11],68.1464999999794
MR_271876_1,[C:1](/[C:4]([N:3]([C:5]([C:2]([H:17])([H:18])[H:19])=[C:8]([H:20])[H:21])[N:6]([H:10])[H:11])=[N:9]\[N:7]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:4](=[N:3]/[N:6]([H:10])[H:11])[N:9]([C:5]([C:2]([H:17])([H:18])[H:19])=[C:8]([H:20])[H:21])[N:7]([H:12])[H:13])([H:14])([H:15])[H:16],51.27804499997907
MR_187008_0,[C:1]([C:3]([O:6][C:2]([H:14])([H:15])[H:16])=[O:8])(/[N:7]=[C:5](\[N:4]([H:9])[H:10])[H:13])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:3](=[O:8])[N:7]1[C:5]([N:4]([H:9])[H:10])([O:6][C:2]([H:14])([H:15])[H:16])[H:13],70.58496500002931
MR_369035_2,[C:1]([N:3](/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:7]\[H:11])[N:5]([H:9])[H:10])([C:6](=[O:8])[H:14])([H:12])[H:13]>>[C:1]([N:3]([N:5]([H:9])[H:10])[C:6](=[O:8])[H:14])(/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:7]\[H:11])([H:12])[H:13],71.9347175000101
